US08071807B2
Step 2: {4-Methoxy-3-[4-(2-oxo-oxazolidin-3-yl)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid
To {3-[4-(2-chloro-ethoxycarbonylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester (0.100 g, 0.19 mmol) in EtOH (5 mL) was added sodium ethoxide (21 wt % in EtOH; 4.61 mL, 0.37 mmol), and the reaction was stirred at 65° C. overnight. The mixture was partitioned between EtOAc and H2O, and the aqueous layer was extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by preparative HPLC to give the title compound.

reactant | {3-[4-(2-chloro-ethoxycarbonylamino)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | 0.19 mmol, 0.100 g | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)NC(=O)OCCCl)CSCC(F)(F)F)=O | C23H25ClF3NO6S
reactant | sodium ethoxide | 0.37 mmol, 4.61 mL | [O-]CC.[Na+]
solvent | EtOH | 5 mL | CCO | C2H6O
product | {4-Methoxy-3-[4-(2-oxo-oxazolidin-3-yl)-2-(2,2,2-trifluoro-ethylsulfanylmethyl)-phenoxy]-phenyl}-acetic acid | COC1=C(C=C(C=C1)CC(=O)O)OC1=C(C=C(C=C1)N1C(OCC1)=O)CSCC(F)(F)F | C21H20F3NO6S
